US09163021B2
2-[4-cyano-3-(trifluoromethyl)phenyl]-N-(4-{[1-(propan-2-yl)-1H-pyrrolo[3,2-c]pyridin-3-yl]carbonyl}pyridin-2-yl)acetamide
Prepared according to Method M (Example 206) at 60° C. for 16 hours followed by 70° C. for a further 16 hours using (2-aminopyridin-4-yl)-(1-isopropyl-1H-pyrrolo[3,2-c]pyridin-3-yl)methanone (Preparation 20) and [4-cyano-3-(trifluoromethyl)phenyl]acetic acid (Preparation 95). Purified using silica gel column chromatography eluting with 5-7% MeOH in DCM.

reactant | (2-aminopyridin-4-yl)-(1-isopropyl-1H-pyrrolo[3,2-c]pyridin-3-yl)methanone | NC1=NC=CC(=C1)C(=O)C1=CN(C2=C1C=NC=C2)C(C)C | C16H16N4O
reactant | [4-cyano-3-(trifluoromethyl)phenyl]acetic acid | C(#N)C1=C(C=C(C=C1)CC(=O)O)C(F)(F)F | C10H6F3NO2
product | 2-[4-cyano-3-(trifluoromethyl)phenyl]-N-(4-{[1-(propan-2-yl)-1H-pyrrolo[3,2-c]pyridin-3-yl]carbonyl}pyridin-2-yl)acetamide | C(#N)C1=C(C=C(C=C1)CC(=O)NC1=NC=CC(=C1)C(=O)C1=CN(C2=C1C=NC=C2)C(C)C)C(F)(F)F | C26H20F3N5O2
